US03946027
2-Methyl-4-(3'-chlorophenyl)-1,4-dihydropyridine-3,5,6-tricarboxylic acid triethyl ester. ##SPC33##
14 g of 3-chlorobenzaldehyde, 19 g of oxalacetic acid diethyl ester and 13 g of β-aminocrotonic acid ethyl ester in 60 ccs of ethanol are heated to the boil for several hours and subsequently evaporated in vacuo. Oil (orange). a. In the same way, 2-methyl-4-(2'-chlorophenyl)-1,4-dihydropyridine-3,5,6-tricarboxylic acid triethyl ester is prepared from 14 g of 2-chlorobenzaldehyde, 19 g of oxalacetic acid diethyl ester and 13 g of β-aminocrotonic acid ethyl ester in 60 ccs of ethanol.

reactant | 3-chlorobenzaldehyde | 14 g | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | oxalacetic acid diethyl ester | 19 g | C(C)OC(CC(=O)C(=O)OCC)=O | C8H12O5
reactant | β-aminocrotonic acid ethyl ester | 13 g | C(C)OC(\C=C(\C)/N)=O | C6H11NO2
solvent | ethanol | C(C)O | C2H6O
product | 2-Methyl-4-(3'-chlorophenyl)-1,4-dihydropyridine-3,5,6-tricarboxylic acid triethyl ester | C(C)OC(=O)C1=C(NC(=C(C1C1=CC(=CC=C1)Cl)C(=O)OCC)C(=O)OCC)C | C21H24ClNO6
